US05563114
18.5 g (0.11 mol) of N-hydroxyphthalimide and 31.4 g (0.11 mol) of 1-bromo-[3-(4-bromophenyl)]-prop-2-ene were added in succession to 350 ml of dry N-methylpyrrolidone, and 12.1 g (0.12 mol) of triethylamine were then added dropwise at room temperature. After stirring had been carried out for four days at 20° C., the reaction mixture was poured onto 1.5 1 of ice water and the solid was filtered off and washed with water and isopropanol. 34.3 g (86.8% of theory) of N-[3-(4-bromophenyl)-prop-2-enyloxy]-phthalimide with a melting point of 161°-162° C. were obtained.

reactant | N-hydroxyphthalimide | 0.11 mol, 18.5 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | 1-bromo-[3-(4-bromophenyl)]-prop-2-ene | 0.11 mol, 31.4 g | BrCC=CC1=CC=C(C=C1)Br | C9H8Br2
reactant | triethylamine | 0.12 mol, 12.1 g | C(C)N(CC)CC | C6H15N
solvent | N-methylpyrrolidone | 350 ml | CN1C(CCC1)=O | C5H9NO
product | N-[3-(4-bromophenyl)-prop-2-enyloxy]-phthalimide | 34.3 g, 86.8% | BrC1=CC=C(C=C1)C=CCON1C(C=2C(C1=O)=CC=CC2)=O | C17H12BrNO3
